Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.9784287082700005
[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.997573881009999
[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.34362366977
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.41562570413
[O:1][C:2](=[C:3]=[O:4])[C:7]([C:5][H:6])([H:8])[H:9]>>[O:1]=[C:2]1[C:3][O:4][C:5]([H:6])[C:7]1([H:8])[H:9],-1.36373630333
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7],5.06056729453
[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.81595460975
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.07733596047
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.00738570438
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3],6.989761275939999
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],-2.05285906824
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][O:11]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]1[O:10][O:11]1,-1.5316773085799995
[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5],6.1228334616
[C:2]([H:3])#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-3.54609011379
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.84671605667
[H:4].[O:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.43979508227
[H:1][C:2]#[C:3][C:4][C:5]([H:6])[O:8][O:9][H:10].[H:7]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10],-1.82968577471
[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:12]1([H:13])[H:14],3.70079464309
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[H:12],3.54242519742
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7],4.86563796398
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.3540856812
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.0440698076109
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7],2.0209896260900004
[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8][H:9]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-5.13470260199
[C:4]([O:5][H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.624263233581
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.84653525885
[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-8.14585494333
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-7.22354279
